US08420851B2
To a solution of [[4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-(4-methoxy-phenoxycarbonyl)-amino]-acetic acid ethyl ester (6.4 g, 0.01 mol) in CH2Cl2 (128 mL) was cooled to −60° C. under nitrogen atmosphere. To that 1M BBr3 (boron tribromide) solution (44.44 mL) was added dropwise. The reaction mixture was allowed to warm up to 20-25° C. over 5 h. then diluted with more CH2Cl2 (30 mL) and quenched with H2O. After stirring at 20-25° C. for 30 min, organic phase was separated, washed with H2O, brine & dried over sodium sulphate, filtered and concentrated to give crude product. The crude product was purified by column chromatography over flash silica gel (chloroform:methanol) gradient elution from 95:5 to 90:10 to give pure [[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-(4-hydroxy-phenoxycarbonyl)-amino]-acetic acid (3.3 g, 58% yield)

reactant | [[4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-(4-methoxy-phenoxycarbonyl)-amino]-acetic acid ethyl ester | 0.01 mol, 6.4 g | C(C)OC(CN(C(=O)OC1=CC=C(C=C1)OC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C29H31Cl2NO7
reactant | BBr3 | 1M, 44.44 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 128 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | [[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-(4-hydroxy-phenoxycarbonyl)-amino]-acetic acid | 3.3 g, 58% yield | C(C)(CC)C=1C=C(OC2=C(C=C(C=C2Cl)N(C(=O)OC2=CC=C(C=C2)O)CC(=O)O)Cl)C=CC1O | C25H23Cl2NO7
